2173-04-10 05:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SHEATH - STOP [**2173-4-9**] 08:00 AM
 FEVER - 101.8
F - [**2173-4-10**] 12:00 AM
   - Given lasix 100 IV. Repeated lasix 100 IV x 1.
   - Attempted contacting Dr.[**Name (NI) 4601**] office but closed. Wife had 2
   different lists of meds.
   - Resumed home BB, uptitrated to TID dosing given hypertension. Labile
   BPs all day. Sedation increased. Given hydral 10 IV x1 with minimal
   effect. Back on nitro gtt.
   - Spiked temp 100-101.2. Pancultured. CXR in am.
   - A line placed.
   - Unable to wean vent settings.
   - 445 am converted to SVT, given lopressor 5 IV x 1.
   S: Intubated and sedated.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 250 mcg/hour
   Other ICU medications:
   Omeprazole (Prilosec) - [**2173-4-9**] 08:33 AM
   Furosemide (Lasix) - [**2173-4-9**] 10:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-4-10**] 05:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38.8
C (101.8
   HR: 118 (79 - 131) bpm
   BP: 124/63(81) {114/61(77) - 206/106(135)} mmHg
   RR: 16 (16 - 16) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 86.1 kg (admission): 86.1 kg
   Height: 65 Inch
    CVP: 14 (9 - 16)mmHg
   PAP: (34 mmHg) / (23 mmHg)
   Total In:
                                                                  1,327 mL
                                                                    282 mL
   PO:
   TF:
   IVF:
                                                                  1,327 mL
                                                                    282 mL
   Blood products:
   Total out:
                                                                  3,080 mL
                                                                    200 mL
   Urine:
                                                                  1,870 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,753 mL
                                                                     82 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 16
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 30 cmH2O
   Plateau: 25 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 98%
   ABG: 7.43/43/82.[**Numeric Identifier **]/26/3
   Ve: 9.2 L/min
   PaO2 / FiO2: 207
   Physical Examination
   General Appearance: Well nourished, intubated/sedated
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : mechanical)
   Abdominal: Soft, No(t) Non-tender, No(t) Bowel sounds present,
   diminished bowel sounds
   Extremities: WWP. Right: 2+, Left: 2+, No(t) Cyanosis. 2+ ankle edema.
   Labs / Radiology
   284 K/uL
   10.6 g/dL
   205 mg/dL
   2.4 mg/dL
   26 mEq/L
   3.5 mEq/L
   23 mg/dL
   102 mEq/L
   136 mEq/L
   29.7 %
   11.8 K/uL
        [image002.jpg]
                             [**2173-4-9**]  02:07 AM
                             [**2173-4-9**]  07:32 AM
                             [**2173-4-9**]  07:55 AM
                             [**2173-4-9**]  08:07 AM
                             [**2173-4-9**]  03:19 PM
                             [**2173-4-9**]  05:32 PM
                             [**2173-4-10**]  02:00 AM
                             [**2173-4-10**]  02:03 AM
   WBC
   16.1
   11.8
   Hct
   36.0
   29.7
   Plt
   367
   284
   Cr
   1.5
   2.0
   2.4
   TropT
   3.25
   5.28
   TCO2
   24
   25
   25
   28
   29
   Glucose
   175
   107
   205
   Other labs: PT / PTT / INR:17.0/33.4/1.5, CK / CKMB /
   Troponin-T:1063/25/5.28, ALT / AST:38/117, Alk Phos / T Bili:150/0.5,
   Differential-Neuts:89.4 %, Lymph:7.6 %, Mono:2.4 %, Eos:0.4 %, Lactic
   Acid:1.6 mmol/L, LDH:519 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:4.2
   mg/dL
   Assessment and Plan
   Patient is a 62 y/oM admitted with STEMI and in-stent thrombosis of his
   Cypher DES, and acute CHF likely ischemic/diastolic.
   #. STEMI / In-Stent Thrombosis:
   Managed by evacuation of clot and POBA to distal RCA. Trop climbed to
   5.28, MB peaked at 92.
   - Cont plavix, aspirin, statin, metoprolol, lisinopril
   - will add amlodipine 10mg
   #. Acute Systolic HF
   Echo showed new systolic dysfunction s/p IMI. Lung sounds are clear
   this am with net output of 1.75L yest. Creatinine rising this am.
   - F/u am CXR.
   - Hold lasix for now and follow I/O (goal < even) given worsening ARF.
   # Respiratory Failure
   - Likely CHF given elevated filling pressures, improved with diuresis
   overnight
   - Wean vent as tolerated, will continue lasix today for goal of
   additional 1L negative
   # Fever: Pt febrile to temp [**Age over 90 2224**] yesterday, pan-cultured, CXR with no
   evidence of infiltrate
   - f/u micro data
   - f/u CXR, no clear evidence of infiltrate
   # Anemia: pt with HCT drop to 30 this am, likely blood loss related to
   procedure and hematuria, will transfuse for HCT<25, consider CT scan to
   evaluate for RP bleed if continues to drop
   # Hypertension: Continues to be labile in setting of agitation
   - Wean nitro gtt keeping SBP <150.
   - Continue home lisinopril, metoprolol, amlodipine as above
   # Acute Kidney Injury
   - Potential etiologies include pre-renal from poor forward flow,
   intrinsic end-organ damage from hypertension. Last creatinine checked
   was 2 years ago. Will trend for now, if rising check sediment and urine
   lytes. Continue diuresis for now.
   #. h/o Stroke
   - Aggrenox changed to plavix
   #. Diabetes
   - Confirm home medication and likely will half glargine while NPO once
   med rec completed.
   - RISS for now, insulin gtt if difficult to control
   - Check A1c
   #. FEN: NPO for now, lyte repletion
   #. Access: swan with access port, PIV, will DC swan today
   #. PPx: lansoprazole, SC heparin once sheath pulled
   #. Code: Full
   #. Dispo: CCU for now
   Family: [**Name (NI) 845**] [**Name (NI) 4563**] wife [**Telephone/Fax (3) 4565**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PA Catheter - [**2173-4-9**] 04:28 AM
   20 Gauge - [**2173-4-9**] 04:30 AM
   16 Gauge - [**2173-4-9**] 04:31 AM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   as per ccu team
   Physical Examination
   as per ccu team
   Medical Decision Making
   Critically ill due to ST elevation MI, Acute diastolic CHF, aspiration
   pneumonia, hypertensive emergency
   Above discussed extensively with family member, next of [**Doctor First Name **] or health
   care proxy.
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   date of service 3/7/9
   ------ Protected Section Addendum Entered By:[**Name (NI) 322**] [**Name (NI) **], MD
   on:[**2173-4-11**] 11:02 ------

2173-04-11 06:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Episode of BP to 250s/100s. Labetalol gtt started, with resultant
   drop to 70s/40s    -> gtt stopped and gave 500cc bolus. Amlodipine
   held. ABG 7.48/28/95. Lact 1.9. ScvO2 76. SmvO2 67.
   - FENa 5.2 and FEurea 38.2 c/w ATN.
   - Hct still slowly dropping.
   - Continued fevers -> blood cx sent.
   - AFib with RVR to 110s-130s in am, self-limited.
   - Started 20 units glargine.
   - Pulling Vt of ~500 on PSV 10/8 off sedation this am.
   S: Intubated, noncommunicative.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Omeprazole (Prilosec) - [**2173-4-10**] 08:42 AM
   Heparin Sodium (Prophylaxis) - [**2173-4-10**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-4-11**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 37.9
C (100.2
   HR: 89 (83 - 145) bpm
   BP: 162/83(111) {77/45(53) - 216/105(119)} mmHg
   RR: 15 (15 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86.1 kg (admission): 86.1 kg
   Height: 65 Inch
    CVP: 18 (8 - 20)mmHg
   PAP: (25 mmHg) / (18 mmHg)
   Mixed Venous O2% Sat: 67 - 67
   Total In:
                                                                  2,003 mL
                                                                    668 mL
   PO:
   TF:
   IVF:
                                                                  1,883 mL
                                                                    608 mL
   Blood products:
   Total out:
                                                                    945 mL
                                                                    600 mL
   Urine:
                                                                    945 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,058 mL
                                                                     68 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, No Spon Resp
   PIP: 29 cmH2O
   Plateau: 22 cmH2O
   SpO2: 98%
   ABG: 7.50/36/122/24/5
   Ve: 11.7 L/min
   PaO2 / FiO2: 244
   Physical Examination
   General Appearance: Well nourished, intubated
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: rhonchorous)
   Abdominal: Soft, No(t) Non-tender, No(t) Bowel sounds present,
   diminished bowel sounds
   Extremities: WWP. Right: 2+, Left: 2+, No(t) Cyanosis. 2+ ankle edema.
   Neuro: Does not follow commands. Responds to painful stimuli. Eyes open
   spontaneously with fixed R-[**Hospital1 **] gaze deviation. PERRL. Decreased tone
   in all ext, although spontaneously moves head, RUE and RLE well. Moves
   LUE and LLE with 2/5 strength. Reflexes: L biceps 3+, L patellar 3+, R
   biceps 1+, R patellar not detected. Babinski positive bilaterally.
   Labs / Radiology
   225 K/uL
   9.2 g/dL
   211 mg/dL
   2.9 mg/dL
   24 mEq/L
   3.2 mEq/L
   35 mg/dL
   103 mEq/L
   137 mEq/L
   26.2 %
   11.0 K/uL
        [image002.jpg]
                             [**2173-4-9**]  03:19 PM
                             [**2173-4-9**]  05:32 PM
                             [**2173-4-10**]  02:00 AM
                             [**2173-4-10**]  02:03 AM
                             [**2173-4-10**]  09:05 AM
                             [**2173-4-10**]  09:27 AM
                             [**2173-4-10**]  02:10 PM
                             [**2173-4-10**]  05:11 PM
                             [**2173-4-11**]  04:36 AM
                             [**2173-4-11**]  04:48 AM
   WBC
   11.8
   11.0
   Hct
   29.7
   27.8
   26.9
   26.2
   Plt
   284
   225
   Cr
   2.0
   2.4
   2.5
   3.0
   2.9
   TropT
   5.28
   TCO2
   28
   29
   26
   21
   29
   Glucose
   107
   205
   222
   211
   Other labs: PT / PTT / INR:17.0/33.4/1.5, CK / CKMB /
   Troponin-T:1063/25/5.28, ALT / AST:27/90, Alk Phos / T Bili:107/0.9,
   Differential-Neuts:89.4 %, Lymph:7.6 %, Mono:2.4 %, Eos:0.4 %, Lactic
   Acid:1.9 mmol/L, Albumin:2.9 g/dL, LDH:504 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   Patient is a 62 y/oM admitted with STEMI and in-stent thrombosis of his
   Cypher DES, and acute CHF likely ischemic/diastolic.
   # Altered Mental Status
   Patient is less reponsive on exam this am. He has a h/o L sided
   weakness, although his LUE/LLE appear to be weaker than prior, he is
   not following commands, and has persistent gaze deviation. In the
   setting of paroxysmal severe HTN (up to 250/100) yesterday, would be
   most concerned for an ICH or CVA.
   - Stat noncon CT head
   - Follow neuro exam
   #. STEMI / In-Stent Thrombosis:
   Managed by evacuation of clot and POBA to distal RCA. Trop climbed to
   5.28, MB peaked at 92.
   - Cont plavix, aspirin, statin, metoprolol, lisinopril
   #. Acute Systolic HF
   Echo showed new systolic dysfunction s/p IMI. Was positive 1L yesterday
   and received IV furosemide early this am.
   - Goal fluid balance 1L negative with lasix boluses.
   - PM lytes
   # Respiratory Failure
   Likely from acute heart failure. Tolerated PSV trial this am.
   - Cont spont breathing trials and attempt to wean vent.
   - D/c PA cath
   # Fever: Pt remains febrile, pan-cultured, CXR with no evidence of
   infiltrate
   - f/u micro data
   # Anemia: Pt with hct slowly trending down. Threshold for transfusion
   is under 25. Consider CT A/P if continues to drop.
   - Check PM hct.
   # Hypertension: More stable after acute increase/decrease yest morning,
   now off nitro and labetalol gtts.
   - Cont lisinopril, metoprolol, amlodipine
   # Acute Kidney Injury
   - Ulytes c/w ATN, creatinine stable.
   - Follow up urine sediment
   - Trend creatinine
   #. h/o Stroke
   - Aggrenox changed to plavix
   #. Diabetes
   - Cont glargine and ISS
   #. FEN: NPO for now, lyte repletion
   #. Access: swan with access port, PIV, will DC swan today
   #. PPx: lansoprazole, SC heparin once sheath pulled
   #. Code: Full
   #. Dispo: CCU for now
   Family: [**Name (NI) 845**] [**Name (NI) 4563**] wife [**Telephone/Fax (3) 4565**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PA Catheter - [**2173-4-9**] 04:28 AM
   20 Gauge - [**2173-4-9**] 04:30 AM
   16 Gauge - [**2173-4-9**] 04:31 AM
   Arterial Line - [**2173-4-10**] 08:32 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   as per ccu
   Physical Examination
   as per ccu
   Medical Decision Making
   critically ill due to ST elevation inferior MI, hypoxia, hypertensive
   heart disease.
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   date of service 3/8/9
   ------ Protected Section Addendum Entered By:[**Name (NI) 322**] [**Name (NI) **], MD
   on:[**2173-4-11**] 13:22 ------

2173-04-12 05:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PA CATHETER - STOP [**2173-4-11**] 08:19 PM
   -?mental status, Ct head neg
   -weaning vent
   -got 100mg IV lasix bolus
   -had fever started Vanc/Zosyn for VAP
   -swan d/ced
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2173-4-11**] 01:00 PM
   Piperacillin - [**2173-4-12**] 12:33 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Labetalol - 2 mg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2173-4-11**] 09:59 AM
   Heparin Sodium (Prophylaxis) - [**2173-4-11**] 05:31 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-4-12**] 05:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.7
C (99.8
   HR: 78 (78 - 90) bpm
   BP: 133/68(90) {101/50(67) - 178/83(119)} mmHg
   RR: 21 (14 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86.1 kg (admission): 86.1 kg
   Height: 65 Inch
    CVP: 15 (10 - 17)mmHg
   PAP: (36 mmHg) / (21 mmHg)
   Total In:
                                                                  1,901 mL
                                                                    460 mL
   PO:
   TF:
   IVF:
                                                                  1,601 mL
                                                                    460 mL
   Blood products:
   Total out:
                                                                  1,905 mL
                                                                  1,630 mL
   Urine:
                                                                  1,585 mL
                                                                  1,630 mL
   NG:
                                                                    320 mL
   Stool:
   Drains:
   Balance:
                                                                     -4 mL
                                                                 -1,170 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 417 (417 - 549) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 55
   PIP: 11 cmH2O
   Plateau: 20 cmH2O
   SpO2: 96%
   ABG: 7.39/43/138/25/1
   Ve: 7.5 L/min
   PaO2 / FiO2: 276
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   225 K/uL
   9.2 g/dL
   198
   2.8 mg/dL
   25 mEq/L
   3.8 mEq/L
   37 mg/dL
   104 mEq/L
   138 mEq/L
   26.0 %
   11.0 K/uL
        [image002.jpg]
                             [**2173-4-10**]  02:03 AM
                             [**2173-4-10**]  09:05 AM
                             [**2173-4-10**]  09:27 AM
                             [**2173-4-10**]  02:10 PM
                             [**2173-4-10**]  05:11 PM
                             [**2173-4-11**]  04:36 AM
                             [**2173-4-11**]  04:48 AM
                             [**2173-4-11**]  04:09 PM
                             [**2173-4-11**]  05:33 PM
                             [**2173-4-12**]  12:00 AM
   WBC
   11.8
   11.0
   Hct
   29.7
   27.8
   26.9
   26.2
   26.0
   Plt
   284
   225
   Cr
   2.4
   2.5
   3.0
   2.9
   2.8
   TropT
   5.28
   TCO2
   26
   21
   29
   27
   Glucose
   [**Telephone/Fax (3) 4649**]04
   198
   Other labs: PT / PTT / INR:17.0/33.4/1.5, CK / CKMB /
   Troponin-T:1063/25/5.28, ALT / AST:27/90, Alk Phos / T Bili:107/0.9,
   Differential-Neuts:89.4 %, Lymph:7.6 %, Mono:2.4 %, Eos:0.4 %, Lactic
   Acid:1.9 mmol/L, Albumin:2.9 g/dL, LDH:504 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   62 y/oM admitted with STEMI and in-stent thrombosis of his Cypher DES,
   and acute CHF likely ischemic/diastolic.
   1. STEMI / In-Stent Thrombosis:
   Managed by evacuation of clot and POBA to distal RCA. Trop climbed to
   5.28, MB peaked at 92.
   - Cont plavix, aspirin, statin, metoprolol, lisinopril
   2. Hypertension: Patient was again hypertensive yesterday and labetalol
   was restarted.
   - Cont lisinopril and amlodipine
   - continue IV labetalol for now and then transition to PO labetalol
   after extubated
   3. Anemia
   Pt with hct slowly trending down. Threshold for transfusion is under
   25. Consider CT A/P if continues to drop.
   4. Fever
   Etiology appears likely related to VAP.
   - continue vanc and zosyn
   5. Respiratory Failure
   Likely from acute heart failure. Patient
s mental status has improved,
   but it is unclear if he may still need airway protection.
   - discontinue propafol and recheck RSBI
   - if patient
s mental status improves, extubate
   6. Acute Systolic HF
   Echo showed new systolic dysfunction s/p IMI. Was positive 1L yesterday
   and received IV furosemide early this am.
   - Goal fluid balance 1L negative with lasix boluses.
   - PM lytes
   7. Altered Mental Status
   Patient is less reponsive on exam this am. He has a h/o L sided
   weakness, although his LUE/LLE appear to be weaker than prior, he is
   not following commands, and has persistent gaze deviation. In the
   setting of paroxysmal severe HTN (up to 250/100) yesterday, would be
   most concerned for an ICH or CVA.
   - Stat noncon CT head
   - Follow neuro exam
   8. Acute Kidney Injury
   Differential diagnosis likely ATN.
   - continue trend
   #. h/o Stroke
   - Aggrenox changed to plavix
   #. Diabetes
   - Cont glargine and ISS
   #. FEN: NPO for now, lyte repletion
   #. Access: PIV
   #. PPx: lansoprazole, SC heparin once sheath pulled
   #. Code: Full
   #. Dispo: CCU for now
   Family: [**Name (NI) 845**] [**Name (NI) 4563**] wife [**Telephone/Fax (3) 4565**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PA Catheter - [**2173-4-9**] 04:28 AM
   20 Gauge - [**2173-4-9**] 04:30 AM
   16 Gauge - [**2173-4-9**] 04:31 AM
   Arterial Line - [**2173-4-10**] 08:32 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   as per ccu team
   Physical Examination
   as per ccu team
   Medical Decision Making
   critically ill due to acute STEMI, acute systolic and diastolic CHF,
   aspiration pneumonia.
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   date of service 3/9/9
   ------ Protected Section Addendum Entered By:[**Name (NI) 322**] [**Name (NI) **], MD
   on:[**2173-4-12**] 13:40 ------

2173-04-13 05:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -HCT slightly decreased; stable on repeat 23-24, type and screen
   ordered
   -Off labetalol gtt most of the day with well controlled BPs but BP
   increased in am [**4-13**] with SBP 170s-180s, increased agitation
   -Started TFs
   -PEEP increased with improved oxygenation so unable to do RSBI this am
   Bolused with lasix 100 IV, repeat 120 IV
   Hyperglycemic-> Increased lantus from 20 to 30 units qhs
Neuro Recs: Likely encephalopathy s/p MI [**3-8**] infection and metabolic abnormaliti
es. Recs:treat infxn as we are, if worsens, could consider EEG.
   S: Intubated, does not answer questions.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2173-4-11**] 01:00 PM
   Piperacillin - [**2173-4-12**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2173-4-13**] 12:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2173-4-12**] 09:30 PM
   Heparin Sodium (Prophylaxis) - [**2173-4-13**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-4-13**] 05:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.9
C (98.5
   HR: 70 (68 - 80) bpm
   BP: 158/77(104) {111/49(68) - 160/77(106)} mmHg
   RR: 18 (18 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86.1 kg (admission): 86.1 kg
   Height: 65 Inch
             Total In:
                                                                  1,630 mL
                                                                    500 mL
   PO:
             TF:
   IVF:
                                                                  1,360 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  2,975 mL
                                                                    820 mL
   Urine:
                                                                  2,975 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,345 mL
                                                                   -320 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 448 (380 - 545) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 98%
   ABG: 7.47/37/106/25/3
   Ve: 10.3 L/min
   PaO2 / FiO2: 265
   Physical Examination
   Gen: Intubated
   CV: RRR no m/r/g
   Resp:Coarse BS BL
   Abd: Soft. Obese. NT ND. NABS.
   Ext: 1+ edema b/l. WWP. 2+ radial and DP pulses.
   Neuro: Opens eyes to voice, does not follow commands, MAE (R>L).
   Labs / Radiology
   298 K/uL
   8.6 g/dL
   171 mg/dL
   2.5 mg/dL
   25 mEq/L
   3.8 mEq/L
   41 mg/dL
   103 mEq/L
   141 mEq/L
   24.1 %
   10.1 K/uL
        [image002.jpg]
                             [**2173-4-11**]  04:09 PM
                             [**2173-4-11**]  05:33 PM
                             [**2173-4-12**]  12:00 AM
                             [**2173-4-12**]  05:49 AM
                             [**2173-4-12**]  06:00 AM
                             [**2173-4-12**]  01:45 PM
                             [**2173-4-12**]  04:58 PM
                             [**2173-4-12**]  10:30 PM
                             [**2173-4-13**]  04:00 AM
                             [**2173-4-13**]  04:11 AM
   WBC
   11.3
   10.1
   Hct
   26.0
   25.3
   23.5
   24.4
   24.1
   Plt
   229
   298
   Cr
   2.8
   2.6
   2.5
   2.5
   TCO2
   27
   28
   26
   28
   Glucose
   [**Telephone/Fax (3) 4674**]11
   171
   Other labs: PT / PTT / INR:17.0/33.4/1.5, CK / CKMB /
   Troponin-T:1063/25/5.28, ALT / AST:27/90, Alk Phos / T Bili:107/0.9,
   Differential-Neuts:89.4 %, Lymph:7.6 %, Mono:2.4 %, Eos:0.4 %, Lactic
   Acid:1.9 mmol/L, Albumin:2.9 g/dL, LDH:504 IU/L, Ca++:9.0 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   62 y/oM admitted with STEMI and in-stent thrombosis of his Cypher DES
   and acute CHF likely ischemic/diastolic.
   1. STEMI / In-Stent Thrombosis:
   It remains unclear what my have triggered this thrombosis 4 years after
   stent placement. He was managed by evacuation of clot and POBA to
   distal RCA.
   - Cont high dose plavix , aspirin, statin , metoprolol, and lisinopril
   - follow-up with patient and PCP regarding medication adherence
   2. Hypertension:
   Patient was again hypertensive yesterday and labetalol was restarted.
   - Cont lisinopril and amlodipine
   - continue IV labetalol for now and then transition to PO labetalol
   after extubated
   - will aim for tight BP monitoring in the setting of extubation and
   peri-extubation
   3. Fever
   Etiology appears likely related to VAP given increased secretions
   - treat for 7 day course of vanc and zosyn for ventilator-associated
   pneumonia
   4. Acute Systolic HF
   Echo showed new systolic dysfunction s/p IMI.
   - Goal fluid balance 1L negative with lasix boluses of 120 furosemide.
   - PM lytes
   5. Anemia
   Pt with hct slowly trending down. Threshold for transfusion is under 21
   given no evidence of end-organ ischemia.
   - recheck PM Hct
   6. Respiratory Failure
   Likely from acute heart failure. Patient
s respiratory status is
   markedly improved and mental status is improved.
   - extubate today
   - low threshold for reintubation if patient has altered mental status
   or respiratory distress
   7. Altered Mental Status
   Patient
s altered mental status is improved.
   - Follow neuro exam
   8. Acute Kidney Injury
   Differential diagnosis likely ATN and has improved slowly.
   - continue trend
   9. h/o Stroke
   - Aggrenox changed to plavix
   10. Diabetes
   - Cont glargine and ISS
   #. FEN: NPO for now, lyte repletion
   #. Code: Full
   #. Dispo: CCU for now
   Family: [**Name (NI) 845**] [**Name (NI) 4563**] wife [**Telephone/Fax (3) 4565**]
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Arterial Line - [**2173-4-10**] 08:32 AM
   18 Gauge - [**2173-4-13**] 12:30 AM
   20 Gauge - [**2173-4-13**] 01:00 AM
   Prophylaxis:
   DVT: heparin
   Stress ulcer:  Pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   as per ccu team
   Physical Examination
   as per ccu team
   Medical Decision Making
   as per ccu team. Critically ill due to STEMI, stent thrombosis,
   aspiration pneumonia, mental status change.
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   date of service 3/10/9
   ------ Protected Section Addendum Entered By:[**Name (NI) 322**] [**Name (NI) **], MD
   on:[**2173-4-14**] 08:03 ------

2173-04-14 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Off labetalol gtt since 7pm. NGT placed and taking meds via this.
   - Lantus increased to 40 units.
   - Meds reconciled via patient's pharmacy.
   - S+S eval ordered.
   - Requiring NRB for most of day. Intermittent desats, improved with
   suctioning. CXR suggested fluid overload. Got 3 doses of lasix 120mg
   IV. Due to progressive desats and poor airway protection, reintubated.
   S: Sedated.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2173-4-12**] 12:00 PM
   Vancomycin - [**2173-4-13**] 08:56 AM
   Piperacillin/Tazobactam (Zosyn) - [**2173-4-14**] 06:05 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2173-4-13**] 11:26 PM
   Furosemide (Lasix) - [**2173-4-14**] 12:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-4-14**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.2
C (97.1
   HR: 64 (59 - 73) bpm
   BP: 168/77(107) {113/49(68) - 168/77(107)} mmHg
   RR: 15 (15 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.9 kg (admission): 86.1 kg
   Height: 65 Inch
             Total In:
                                                                  1,559 mL
                                                                    295 mL
   PO:
             TF:
   IVF:
                                                                    779 mL
                                                                    175 mL
   Blood products:
   Total out:
                                                                  2,590 mL
                                                                  1,020 mL
   Urine:
                                                                  2,590 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,031 mL
                                                                   -725 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 452 (452 - 452) mL
   PS : 5 cmH2O
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 73
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   Compliance: 51.4 cmH2O/mL
   SpO2: 98%
   ABG: 7.45/42/95.[**Numeric Identifier **]/24/4
   Ve: 8.6 L/min
   PaO2 / FiO2: 192
   Physical Examination
   Gen: Intubated
   HEENT: PERRL, ETT in place
   CV: RRR no m/r/g
   Resp: Crackles at bases
   Abd: Soft. Obese. NT ND. NABS.
   Ext: 1+ edema b/l. WWP. 2+ radial and DP pulses.
   Neuro: Sedated, does not follow commands.
   Labs / Radiology
   318 K/uL
   8.7 g/dL
   124 mg/dL
   2.2 mg/dL
   24 mEq/L
   3.4 mEq/L
   43 mg/dL
   106 mEq/L
   144 mEq/L
   25.2 %
   8.0 K/uL
        [image002.jpg]
                             [**2173-4-13**]  04:00 AM
                             [**2173-4-13**]  04:11 AM
                             [**2173-4-13**]  09:36 AM
                             [**2173-4-13**]  11:42 AM
                             [**2173-4-13**]  04:42 PM
                             [**2173-4-13**]  05:00 PM
                             [**2173-4-13**]  07:00 PM
                             [**2173-4-14**]  02:32 AM
                             [**2173-4-14**]  04:00 AM
                             [**2173-4-14**]  04:18 AM
   WBC
   10.1
   8.0
   Hct
   24.1
   23.9
   25.2
   Plt
   298
   318
   Cr
   2.5
   2.2
   2.2
   TCO2
   28
   26
   26
   29
   31
   29
   30
   Glucose
   171
   178
   124
   Other labs: PT / PTT / INR:17.0/33.4/1.5, CK / CKMB /
   Troponin-T:1063/25/5.28, ALT / AST:27/90, Alk Phos / T Bili:107/0.9,
   Differential-Neuts:89.4 %, Lymph:7.6 %, Mono:2.4 %, Eos:0.4 %, Lactic
   Acid:1.9 mmol/L, Albumin:2.9 g/dL, LDH:504 IU/L, Ca++:8.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   62 y/oM admitted with STEMI and in-stent thrombosis of his Cypher DES
   and acute CHF likely ischemic/diastolic.
   1. STEMI / In-Stent Thrombosis:
   It remains unclear what my have triggered this thrombosis 4 years after
   stent placement. He was managed by evacuation of clot and POBA to
   distal RCA.
   - Cont high dose plavix , aspirin, statin , metoprolol, and lisinopril
   - follow-up with patient and PCP regarding medication adherence
   2. Respiratory Failure
   [**3-8**] volume overload and to protect airway (MS change) +/- secretions.
   - continue vent, wean as tolerated
   - diurese aggressively, neg -3 liters goal
   - deep suction
   2.5. Mental status change:
   - appreciate neuro following
   - check TSH, folate, B12
   - consider MRI head if MS does not improve
   3. Hypertension:
   Labetalol gtt weaned
   - Cont lisinopril and amlodipine and PO labetolol
   - will aim for tight BP monitoring in the setting of extubation and
   peri-extubation
   4. Fever
   Etiology appears likely related to VAP given increased secretions
   Afebrile now
   - treat for 7 day course of vanc and zosyn for ventilator-associated
   pneumonia
   5. Acute Systolic HF
   Echo showed new systolic dysfunction s/p IMI.  EF 30-40% [**2173-4-9**].
   - repeat echo today
   - neg 3L today; lasix gtt
   - PM lytes
   6. Anemia
   Hct stable at 23-25.  Threshold for transfusion is under 21 given no
   evidence of end-organ ischemia.
   - recheck PM Hct
   8. Acute Kidney Injury
   Differential diagnosis likely ATN and is improving slowly.
   - continue trend
   9. h/o Stroke
   - Aggrenox changed to plavix
   10. Diabetes
   - Cont glargine and ISS
   #. FEN: intubated, lyte repletion
   #. Code: Full
   #. Dispo: CCU for now
   Family: [**Name (NI) 845**] [**Name (NI) 4563**] wife [**Telephone/Fax (3) 4565**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2173-4-10**] 08:32 AM
   18 Gauge - [**2173-4-13**] 12:30 AM
   20 Gauge - [**2173-4-13**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   as per ccu team
   Physical Examination
   as per ccu team
   Medical Decision Making
   Critically ill due to acute STEMI, stent thrombosis, hypoxia, stroke,
   aspiration pneumonia.
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   date of service 3/11/9
   ------ Protected Section Addendum Entered By:[**Name (NI) 322**] [**Name (NI) **], MD
   on:[**2173-4-16**] 11:26 ------

2173-04-15 06:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EEG - At [**2173-4-14**] 03:30 PM
 STOOL CULTURE - At [**2173-4-15**] 02:00 AM
   CDIff sample
   Restarted TFs (nutren pulm); consulted nutrition for TF recs
   Neuro requests EEG
   NP from Dr.[**Name (NI) 4601**] office (Rebacca Acome):
   baseline MS normal, no history of anemia or renal failure, never on
   coumadin at home.
   -had loose stools, sent Cdiff, started flexiseal
   -found to be B12 def, started B12 shots
   -titrated up labetolol
   -continued with lasix drip
   Repeat Echo: improved
   The left atrium is mildly dilated. No atrial septal defect is seen by
   2D or color Doppler. There is mild symmetric left ventricular
   hypertrophy with normal cavity size. There is mild regional left
   ventricular systolic dysfunction with basal to mid inferior akinesis.
   No masses or thrombi are seen in the left ventricle. There is no
   ventricular septal defect. Right ventricular chamber size and free wall
   motion are normal. The diameters of aorta at the sinus, ascending and
   arch levels are normal. The aortic valve leaflets (3) are mildly
   thickened but aortic stenosis is not present. No aortic regurgitation
   is seen. The mitral valve leaflets are mildly thickened. Mild (1+)
   mitral regurgitation is seen. The tricuspid valve leaflets are mildly
   thickened. The estimated pulmonary artery systolic pressure is normal.
   There is a trivial/physiologic pericardial effusion.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2173-4-12**] 12:00 PM
   Vancomycin - [**2173-4-14**] 08:05 AM
   Piperacillin/Tazobactam (Zosyn) - [**2173-4-15**] 06:15 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Furosemide (Lasix) - 20 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2173-4-14**] 08:05 AM
   Furosemide (Lasix) - [**2173-4-14**] 10:00 AM
   Heparin Sodium (Prophylaxis) - [**2173-4-15**] 12:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-4-15**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.3
C (99.2
   HR: 74 (60 - 81) bpm
   BP: 191/78(113) {126/60(83) - 191/78(113)} mmHg
   RR: 17 (15 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.6 kg (admission): 86.1 kg
   Height: 65 Inch
             Total In:
                                                                  1,396 mL
                                                                    747 mL
   PO:
             TF:
                                                                    262 mL
                                                                    198 mL
   IVF:
                                                                    764 mL
                                                                    299 mL
   Blood products:
   Total out:
                                                                  3,290 mL
                                                                    920 mL
   Urine:
                                                                  3,290 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,894 mL
                                                                   -173 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 28 cmH2O
   Plateau: 20 cmH2O
   Compliance: 45.8 cmH2O/mL
   SpO2: 99%
   ABG: 7.48/30/138/27/0
   Ve: 10.5 L/min
   PaO2 / FiO2: 345
   Physical Examination
   Gen: Intubated, sedated, not following commands,
   HEENT: PERRL, ETT in place
   CV: RRR no m/r/g
   Resp: Coarse rhonchorous vented BS bilaterally
   Abd: Soft. Obese. NT ND. NABS.
   Ext: 1+ edema b/l. WWP. 2+ radial and DP pulses.
   Neuro: Sedated, does not follow commands. Intermittently moving [**Name Prefix (Prefixes) **]
   [**Last Name (Prefixes) **]
   Labs / Radiology
   351 K/uL
   9.4 g/dL
   191 mg/dL
   2.3 mg/dL
   27 mEq/L
   3.4 mEq/L
   43 mg/dL
   107 mEq/L
   146 mEq/L
   27.5 %
   7.5 K/uL
        [image002.jpg]
                             [**2173-4-13**]  04:42 PM
                             [**2173-4-13**]  05:00 PM
                             [**2173-4-13**]  07:00 PM
                             [**2173-4-14**]  02:32 AM
                             [**2173-4-14**]  04:00 AM
                             [**2173-4-14**]  04:18 AM
                             [**2173-4-14**]  03:21 PM
                             [**2173-4-14**]  03:32 PM
                             [**2173-4-15**]  04:00 AM
                             [**2173-4-15**]  04:41 AM
   WBC
   8.0
   7.5
   Hct
   23.9
   25.2
   27.5
   Plt
   318
   351
   Cr
   2.2
   2.2
   2.3
   2.3
   TCO2
   29
   31
   29
   30
   32
   23
   Glucose
   178
   124
   119
   191
   Other labs: PT / PTT / INR:15.4/27.4/1.4, CK / CKMB /
   Troponin-T:1063/25/5.28, ALT / AST:27/90, Alk Phos / T Bili:107/0.9,
   Differential-Neuts:89.4 %, Lymph:7.6 %, Mono:2.4 %, Eos:0.4 %, Lactic
   Acid:1.9 mmol/L, Albumin:2.9 g/dL, LDH:504 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   62 y/oM admitted with STEMI and in-stent thrombosis of his Cypher DES
   and acute CHF likely ischemic/diastolic now s/p evacuation of clot and
   POBA to distal RCA.
   1. STEMI / In-Stent Thrombosis:
   It remains unclear what my have triggered this thrombosis 4 years after
   stent placement. He was managed by evacuation of clot and POBA to
   distal RCA.
   - Cont plavix , high dose aspirin, statin , metoprolol, and lisinopril
   - follow-up with patient and PCP regarding medication adherence (NP to
   call back today)
   2. Respiratory Failure
   [**3-8**] volume overload and inability to protect airway (MS change) +/-
   secretions with low lung volumes. Pt extubated [**4-13**] and reintubated
   [**4-14**]. WBC down and no fever on Vanc/Zosyn
   - continue vent, wean as tolerated: AC 550/15/8/40%
   - wean propofol  in attempt to wean vent
   - diurese aggressively, I/O goal: neg 3 liters, continue lasix gtt
   - deep suction
   - f/u repeat sputum cx and blood cx
   - VAP: continue vanco/Zosyn day [**6-11**] (day 1: [**2173-4-11**])
   - daily RSBI/SBT as tolerated
   2. Mental status change:
   - appreciate neuro following
   - B12 low so repleting;  TSH, folate WNL
   - consider MRI head if MS does not improve
   - F/U EEG to eval for non convulsive status
   3. Hypertension:
   Labetalol gtt weaned. Hypertensive overnight.
   - Cont lisinopril 20 [**Hospital1 **] and amlodipine 10 and PO labetolol 400 TID,
   uptitrate as tolerated
   - may need to start labetalol/nitro gtt peri-extubation
   - will aim for tight BP monitoring in the setting of extubation and
   peri-extubation
   4. Fever
   Etiology appears likely related to VAP given increased secretions.
   Afebrile
   - treat for 8 day course of vanc and zosyn for ventilator-associated
   pneumonia (day 1 [**2173-4-11**])
   5. Acute Systolic HF
   Echo showed new systolic dysfunction s/p IMI.  EF 30-40% [**2173-4-9**]. EF
   improved yesterday 50-55%
   - continue lasix gtt for improved respiratory status until Cr bumps; cr
   stable
   - PM lytes
   6. Anemia
   Hct stable at 23-25.  Threshold for transfusion is under 21 given no
   evidence of end-organ ischemia.
   - recheck PM Hct
   8. Acute Kidney Injury
   Differential diagnosis likely ATN and is improving slowly. Cr stable.
   2.2-2.3
   - continue trend
   9. h/o Stroke
   - Aggrenox changed to plavix
   10. Diabetes
   - Cont glargine and ISS
   #. FEN: intubated, lyte repletion
   #. Code: Full
   #. Dispo: CCU for now
   Family: [**Name (NI) 845**] [**Name (NI) 4563**] wife [**Telephone/Fax (3) 4565**]
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin
   Lines:
   Arterial Line - [**2173-4-10**] 08:32 AM
   18 Gauge - [**2173-4-13**] 12:30 AM
   20 Gauge - [**2173-4-13**] 01:00 AM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: PPI
   VAP:  HOB >30,
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   as per ccu team
   Physical Examination
   as per ccu team
   Medical Decision Making
   Critically ill due to acute STEMI, stent thrombosis, hypoxia, stroke,
   aspiration pneumonia.
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   date of service 3/12/9
   ------ Protected Section Addendum Entered By:[**Name (NI) 322**] [**Name (NI) **], MD
   on:[**2173-4-16**] 11:27 ------

2173-04-16 05:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2173-4-16**] 02:15 AM
   CXR: Endotracheal tube has been repositioned, with tip now about 6 cm
   above the carina. Nasogastric tube terminates below the diaphragm but
   side port is near the GE junction level. Heart size is normal, and
   pulmonary edema has resolved. Marked improved aeration at the lung
   bases with residual patchy opacities in the retrocardiac regions.
   Apparent resolution of right pleural effusion and decreased but small
   residual left pleural effusion.
   Labetalol increased to 600mg PO TID
   MRI: Prelim with mult small acute infarcts, largest L corona radiate, L
   parietal/occipital
   Neuro: Agree wtih MRI
   EEG:IMPRESSION: Abnormal EEG due to the slow background with occasional
   epochs of diffuse attenutation. These findings are suggestive of a
   widespread encephalopathy affecting both cortical and subcortical
   structures. Medications, metabolic disturbances, and infections are
   among the most common causes. Hypoxia is another possible explanation.
   Nevertheless, there were no areas of prominent focal slowing although
   encephalopathies can obscure focal findings. There are no clearly
   epileptiform features.
   -PAF during day, spontaneously converts to sinus. Needs heparin gtt to
   begin after MRI
   S: Sedated, intubated.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2173-4-15**] 08:34 AM
   Piperacillin/Tazobactam (Zosyn) - [**2173-4-16**] 12:14 AM
   Infusions:
   Furosemide (Lasix) - 20 mg/hour
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2173-4-15**] 11:52 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-4-16**] 05:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.2
C (97.2
   HR: 64 (61 - 124) bpm
   BP: 154/71(100) {105/54(70) - 191/78(113)} mmHg
   RR: 12 (12 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.6 kg (admission): 86.1 kg
   Height: 65 Inch
             Total In:
                                                                  2,990 mL
                                                                    460 mL
   PO:
             TF:
                                                                    743 mL
                                                                     81 mL
   IVF:
                                                                  1,277 mL
                                                                    279 mL
   Blood products:
   Total out:
                                                                  2,740 mL
                                                                    690 mL
   Urine:
                                                                  2,740 mL
                                                                    490 mL
   NG:
   Stool:
   200 mL
   Drains:
   Balance:
                                                                    250 mL
                                                                   -230 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 226 (226 - 226) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 104
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.45/43/136/30/5
   Ve: 6.5 L/min
   PaO2 / FiO2: 340
   Physical Examination
   Gen: Intubated, sedated, not following commands,
   HEENT: PERRL, ETT in place
   CV: RRR no m/r/g
   Resp: Coarse rhonchorous vented BS bilaterally
   Abd: Soft. Obese. NT ND. NABS.
   Ext: Trace edema b/l. WWP. 2+ radial and DP pulses.
   Neuro: Sedated, does not follow commands. Intermittently moving head.
   Labs / Radiology
   404 K/uL
   9.2 g/dL
   117 mg/dL
   2.6 mg/dL
   27 mEq/L
   3.8 mEq/L
   46 mg/dL
   108 mEq/L
   147 mEq/L
   27.2 %
   10.3 K/uL
        [image002.jpg]
                             [**2173-4-14**]  04:00 AM
                             [**2173-4-14**]  04:18 AM
                             [**2173-4-14**]  03:21 PM
                             [**2173-4-14**]  03:32 PM
                             [**2173-4-15**]  04:00 AM
                             [**2173-4-15**]  04:41 AM
                             [**2173-4-15**]  02:46 PM
                             [**2173-4-15**]  03:08 PM
                             [**2173-4-16**]  05:02 AM
                             [**2173-4-16**]  05:15 AM
   WBC
   8.0
   7.5
   10.3
   Hct
   25.2
   27.5
   27.2
   Plt
   [**Telephone/Fax (3) 4754**]
   Cr
   2.2
   2.3
   2.3
   2.4
   TCO2
   30
   32
   23
   25
   31
   Glucose
   124
   119
   191
   126
   Other labs: PT / PTT / INR:15.4/27.4/1.4, CK / CKMB /
   Troponin-T:1063/25/5.28, ALT / AST:27/90, Alk Phos / T Bili:107/0.9,
   Differential-Neuts:89.4 %, Lymph:7.6 %, Mono:2.4 %, Eos:0.4 %, Lactic
   Acid:1.9 mmol/L, Albumin:2.9 g/dL, LDH:504 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   62 y/oM admitted with STEMI and in-stent thrombosis of his Cypher DES
   and acute CHF likely ischemic/diastolic now s/p evacuation of clot and
   POBA to distal RCA.
   1. STEMI / In-Stent Thrombosis:
   It remains unclear what my have triggered this thrombosis 4 years after
   stent placement. He was managed by evacuation of clot and POBA to
   distal RCA.
   - Cont plavix , high dose aspirin, statin , metoprolol, and lisinopril
   2. Respiratory Failure
   CXR shows resolution of volume overload. Less secretions. Appears to
   have improved on vanc/zosyn. Remains intubated given concern for mental
   status.
   - Pressure support trial
   - wean propofol
   - deep suction PRN
   - f/u cx data (urine legionella neg, RPR neg, C diff neg)
   - VAP: continue vanco/zosyn (day 1 of 8: [**2173-4-11**])
   3. Mental status change: EEG with diffuse slowing, MRI with small acute
   infarcts although not enough to account for his altered mental status
   per neuro.
   - appreciate neuro following, will discuss with them re: prognosis
   - B12 low so repleting
   4. Hypertension:
   Remains hypertensive on regimen below, but will allow autoregulation in
   setting of acute infarcts.
   - Cont lisinopril 20 [**Hospital1 **] and amlodipine 10 and PO labetolol 600 TID
   5. Fever
   Etiology appears likely related to VAP given increased secretions.
   Afebrile
   - treat for 8 day course of vanc and zosyn for ventilator-associated
   pneumonia (day 1 [**2173-4-11**])
   6. Acute Systolic HF
   Echo showed new systolic dysfunction s/p IMI, now improved with EF
   50-55%.
   - continue lasix gtt to balance tube feed inputs with goal fluid
   balance even.
   7. Anemia
   Hct stable. Threshold for transfusion is under 21 given no evidence of
   end-organ ischemia.
   - recheck in am.
   8. Acute Kidney Injury
   Likely initially from ATN. Bumped recently likely from diuresis.
    - continue trend
   9. h/o Stroke
   - Aggrenox changed to plavix
   - Consider heparin gtt given PAF
   10. Diabetes
   - Cont glargine and ISS
   #. FEN: intubated, lyte repletion, increased free water flushes and
   will follow Na given new hyperNa.
   #. Code: Full
   #. Dispo: CCU for now
   Family: [**Name (NI) 845**] [**Name (NI) 4563**] wife [**Telephone/Fax (3) 4565**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2173-4-10**] 08:32 AM
   18 Gauge - [**2173-4-13**] 12:30 AM
   20 Gauge - [**2173-4-16**] 05:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   as per ccu team
   Physical Examination
   as per ccu team
   Medical Decision Making
   critically ill due to STEMI, acute systolic CHF, aspiration pneumonia,
   hypoxia, intubation, renal failure.
   Above discussed extensively with family member, next of [**Doctor First Name **] or health
   care proxy.
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   date of service 3/13/9
   ------ Protected Section Addendum Entered By:[**Name (NI) 322**] [**Name (NI) **], MD
   on:[**2173-4-18**] 11:50 ------

2173-04-17 05:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Neuro recs: 40min EEG.
   - Free water flushes increased for elevated Na.
   - Started heparin gtt for PAF.
   - Patient interactive, following commands, having spontaneous resps
   - Having some hematuria and bloody secretions.
   S: Denies pain.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2173-4-16**] 09:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2173-4-17**] 05:49 AM
   Infusions:
   Furosemide (Lasix) - 20 mg/hour
   Heparin Sodium - 1,400 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2173-4-16**] 04:09 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-4-17**] 05:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 74 (61 - 81) bpm
   BP: 154/69(98) {123/51(73) - 182/82(118)} mmHg
   RR: 11 (11 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.1 kg (admission): 86.1 kg
   Height: 65 Inch
             Total In:
                                                                  2,691 mL
                                                                    372 mL
   PO:
             TF:
                                                                  1,103 mL
                                                                    165 mL
   IVF:
                                                                    978 mL
                                                                    207 mL
   Blood products:
   Total out:
                                                                  2,830 mL
                                                                    720 mL
   Urine:
                                                                  2,540 mL
                                                                    670 mL
   NG:
                                                                     90 mL
                                                                     50 mL
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                   -139 mL
                                                                   -348 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 350 (350 - 729) mL
   PS : 12 cmH2O
   RR (Set): 8
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 95
   PIP: 17 cmH2O
   Plateau: 17 cmH2O
   SpO2: 99%
   ABG: 7.47/45/142/31/8
   Ve: 8.2 L/min
   PaO2 / FiO2: 355
   Physical Examination
   Gen: Intubated, alert
   HEENT: ETT in place
   CV: RRR no m/r/g
   Resp: CTAB
   Abd: Soft. Obese. NT ND. NABS.
   Ext: No edema b/l. WWP. 2+ radial and DP pulses.
   Neuro: Moves all ext (R>L), follows commands, briefly follows finger
   with eyes.
   Labs / Radiology
   442 K/uL
   9.2 g/dL
   159 mg/dL
   2.6 mg/dL
   31 mEq/L
   3.2 mEq/L
   49 mg/dL
   106 mEq/L
   147 mEq/L
   27.3 %
   11.4 K/uL
        [image002.jpg]
                             [**2173-4-15**]  04:00 AM
                             [**2173-4-15**]  04:41 AM
                             [**2173-4-15**]  02:46 PM
                             [**2173-4-15**]  03:08 PM
                             [**2173-4-16**]  05:02 AM
                             [**2173-4-16**]  05:15 AM
                             [**2173-4-16**]  02:21 PM
                             [**2173-4-16**]  03:15 PM
                             [**2173-4-17**]  03:27 AM
                             [**2173-4-17**]  03:42 AM
   WBC
   7.5
   10.3
   11.4
   Hct
   27.5
   27.2
   27.3
   Plt
   [**Telephone/Fax (3) 4780**]
   Cr
   2.3
   2.4
   2.6
   2.7
   2.6
   TCO2
   23
   25
   31
   32
   34
   Glucose
   191
   126
   117
   184
   159
   Other labs: PT / PTT / INR:15.4/80.4/1.4, CK / CKMB /
   Troponin-T:1063/25/5.28, ALT / AST:27/90, Alk Phos / T Bili:107/0.9,
   Differential-Neuts:89.4 %, Lymph:7.6 %, Mono:2.4 %, Eos:0.4 %, Lactic
   Acid:1.9 mmol/L, Albumin:2.9 g/dL, LDH:504 IU/L, Ca++:9.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   62 y/oM admitted with STEMI and in-stent thrombosis of his Cypher DES
   and acute CHF likely ischemic/diastolic now s/p evacuation of clot and
   POBA to distal RCA.
   STEMI / In-Stent Thrombosis:
   It remains unclear what my have triggered this thrombosis 4 years after
   stent placement. He was managed by evacuation of clot and POBA to
   distal RCA.
   - Cont plavix , high dose aspirin, statin , metoprolol, and lisinopril
   Respiratory Failure
   CXR shows resolution of volume overload. Less secretions, but still a
   lot. Appears to have improved on vanc/zosyn. Mental status is much
   improved compared to yesterday, patient is following commands and now
   has a Gag. Patient still not coughing despite secretions.
   - Continue pressure support
   - keep propofol off
   - deep suction PRN
   - f/u cx data (urine legionella neg, RPR neg, C diff neg)
   - VAP: continue vanco/zosyn (day 1 of 8: [**2173-4-11**])
   Mental status change: EEG with diffuse slowing, MRI with small acute
   infarcts although not enough to account for his altered mental status
   per neuro. His mental statis is much improved this morning compared to
   yesterday
   - appreciate neuro following
   - B12 low so repleting
   Strokes/atrial fibrillation
   - Aggrenox changed to plavix
   - start heparin gtt given PAF and strokes
   Acute Systolic HF
   Echo showed new systolic dysfunction s/p IMI, now improved with EF
   50-55%.
   - continue lasix gtt to balance tube feed inputs with goal fluid
   balance even to slightly negative
   Hypertension:
   Remains hypertensive on regimen below, but will allow autoregulation in
   setting of acute infarcts.
   - Cont lisinopril 20 [**Hospital1 **] and amlodipine 10
   - increase PO labetolol to 800 TID
   Fever
   Now afebrile. Etiology appears likely related to VAP given increased
   secretions.
   - treat for 8 day course of vanc and zosyn for ventilator-associated
   pneumonia (day 1 [**2173-4-11**])
   Anemia
   Hct stable. Threshold for transfusion is under 21 given no evidence of
   end-organ ischemia.
   - recheck in am.
   Acute Kidney Injury
   Likely initially from ATN. Bumped recently likely from diuresis. And
   now improving
    - continue trend
   Diabetes
   - Cont glargine and ISS
   #. FEN: intubated, lyte repletion, increased free water flushes and
   will follow Na given new hyperNa.
   #. Code: Full
   #. Dispo: CCU for now
   Family: [**Name (NI) 845**] [**Name (NI) 4563**] wife [**Telephone/Fax (3) 4565**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2173-4-10**] 08:32 AM
   18 Gauge - [**2173-4-13**] 12:30 AM
   20 Gauge - [**2173-4-16**] 05:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   as per ccu team
   Physical Examination
   as per ccu team
   Medical Decision Making
   critically ill due to STEMI, acute systolic CHF, aspiration pneumonia,
   hypoxia, intubation, renal failure.
   Above discussed extensively with family member, next of [**Doctor First Name **] or health
   care proxy.
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   date of service 3/14/9
   ------ Protected Section Addendum Entered By:[**Name (NI) 322**] [**Name (NI) **], MD
   on:[**2173-4-18**] 11:52 ------

2173-04-18 06:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EEG - At [**2173-4-17**] 12:00 PM
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2173-4-17**] 07:15 PM
 INVASIVE VENTILATION - STOP [**2173-4-17**] 07:15 PM
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2173-4-17**] 07:20 PM
   -wasn't getting water flushes; upon starting flushes, sodium improved
   -self extubated and did well, poor cough and upper airways noises
   -uptitrated Lantus to 48 U
   -put in PICC request
   -started D5W for hypernatremia, turned lasix gtt down to 10
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2173-4-17**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2173-4-18**] 06:07 AM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Heparin Sodium - 1,100 units/hour
   Other ICU medications:
   Midazolam (Versed) - [**2173-4-17**] 04:15 PM
   Fentanyl - [**2173-4-17**] 04:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-4-18**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.1
C (97
   HR: 55 (51 - 82) bpm
   BP: 161/64(94) {111/55(72) - 190/84(120)} mmHg
   RR: 17 (11 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.1 kg (admission): 86.1 kg
   Height: 65 Inch
             Total In:
                                                                  2,339 mL
                                                                  1,061 mL
   PO:
             TF:
                                                                    641 mL
   IVF:
                                                                    798 mL
                                                                    701 mL
   Blood products:
   Total out:
                                                                  3,797 mL
                                                                    650 mL
   Urine:
                                                                  3,715 mL
                                                                    650 mL
   NG:
                                                                     82 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,458 mL
                                                                    411 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 609 (522 - 609) mL
   PS : 8 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 97%
   ABG: 7.46/44/73.[**Numeric Identifier **]/30/6
   Ve: 8.6 L/min
   PaO2 / FiO2: 183
   Physical Examination
   Gen: extubated, awake, follows simple commands
   HEENT: ETT in place
   CV: RRR no m/r/g
   Resp: CTAB
   Abd: Soft. Obese. NT ND. NABS.
   Ext: No edema b/l. WWP. 2+ radial and DP pulses.
   Neuro: Moves all ext (R>L), follows commands, briefly follows finger
   with eyes.
   Labs / Radiology
   442 K/uL
   9.4 g/dL
   149 mg/dL
   2.5 mg/dL
   30 mEq/L
   3.1 mEq/L
   47 mg/dL
   105 mEq/L
   147 mEq/L
   28.5 %
   13.2 K/uL
        [image002.jpg]
                             [**2173-4-16**]  02:21 PM
                             [**2173-4-16**]  03:15 PM
                             [**2173-4-17**]  03:27 AM
                             [**2173-4-17**]  03:42 AM
                             [**2173-4-17**]  06:44 AM
                             [**2173-4-17**]  03:10 PM
                             [**2173-4-17**]  03:19 PM
                             [**2173-4-17**]  06:34 PM
                             [**2173-4-18**]  05:36 AM
                             [**2173-4-18**]  05:47 AM
   WBC
   11.4
   13.2
   Hct
   27.3
   28.5
   Plt
   442
   Cr
   2.7
   2.6
   2.5
   TCO2
   32
   34
   33
   36
   29
   32
   Glucose
   184
   159
   149
   Other labs: PT / PTT / INR:16.1/94.6/1.4, CK / CKMB /
   Troponin-T:1063/25/5.28, ALT / AST:27/90, Alk Phos / T Bili:107/0.9,
   Differential-Neuts:89.4 %, Lymph:7.6 %, Mono:2.4 %, Eos:0.4 %, Lactic
   Acid:1.9 mmol/L, Albumin:2.9 g/dL, LDH:504 IU/L, Ca++:9.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   62 y/oM admitted with STEMI and in-stent thrombosis of his Cypher DES
   and acute CHF likely ischemic/diastolic now s/p evacuation of clot and
   POBA to distal RCA.
   STEMI / In-Stent Thrombosis:
   It remains unclear what my have triggered this thrombosis 4 years after
   stent placement. He was managed by evacuation of clot and POBA to
   distal RCA.
   - Cont plavix , high dose aspirin, statin , labetalol, and lisinopril
   Respiratory Failure
   Patient is s/p self-extubation on [**2173-4-17**] and has tolerated
   supplemental O2. Etiology likely related to fluid overload now much
   improved and pneumonia, now also improved on vancomycin and zosyn.
   - discontinue vanc / zosyn today to complete 8 day course (3/8-15/09)
   - discontinue lasix gtt
   - continue aggressive suctioning and chest PT
   Mental status change: Mental status is much improved s/p extubation.
   Etiology of altered mental status is likely related to prolonged
   hospitalization, multiple sedating medications related to intubation,
   infection given VAP, fluid overload, B12 deficiency, and multiple small
   acute infarcts as seen on MRI.
   - continue to follow-up EEG
   - continue B12 repleteion
   - appreciate neuro recs
   Strokes/atrial fibrillation
   - continue plavix
   - for anticoagulation, continue heparin gtt for now; once patient
   clinical status is more stable
   - consider starting warfarin tomorrow
   - for rate control, continue beta blocker
   Acute Systolic HF
   Echo showed new systolic dysfunction s/p IMI, now improved with EF
   50-55%.
   - discontinue lasix gtt and transition to PO lasix
   - continue beta blocker and ACEI
   Hypertension:
   Remains hypertensive on regimen below, but will allow autoregulation in
   setting of acute infarcts.
   - Cont lisinopril 20 [**Hospital1 **], amlodipine, beta blocker
   - add nitrate
   Fever
   Now afebrile. Etiology appears likely related to VAP given increased
   secretions.
   - to complete 8 day course of vanc and zosyn for ventilator-associated
   pneumonia (day 1 [**2173-4-11**]
 Day 8 [**2173-4-18**])
   Anemia
   Hct stable. Threshold for transfusion is under 21 given no evidence of
   end-organ ischemia.
   - continue to trend
   Acute Kidney Injury
   Likely initially from ATN. Bumped recently likely from diuresis. And
   now improving
    - continue trend
   Diabetes
   - Cont glargine and ISS
   #. FEN: restart tube feeds, lyte repletion, continue free water flushes
   - Speech and swallow vent
   #. Code: Full
   #. Dispo: CCU for now
   Family: [**Name (NI) 845**] [**Name (NI) 4563**] wife [**Telephone/Fax (3) 4565**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2173-4-10**] 08:32 AM
   18 Gauge - [**2173-4-13**] 12:30 AM
   20 Gauge - [**2173-4-16**] 05:00 AM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   as per ccu team
   Physical Examination
   as per ccu team
   Medical Decision Making
   critically ill due to STEMI, acute systolic CHF, aspiration pneumonia,
   hypoxia, intubation, renal failure.
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   date of service 3/15/9
   ------ Protected Section Addendum Entered By:[**Name (NI) 322**] [**Name (NI) **], MD
   on:[**2173-4-18**] 11:54 ------

2173-04-19 05:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2173-4-18**] 01:00 PM
   - 1500cc positive around 5pm so ordered Lasix 120IV (trying to keep
   even). No significant UOP with lasix 120mg IV so ordered 200mg IV lasix
   with metolazone 5mg with good UOP (200-300cc per hour)
   - Changed free water flushes to 150 q6 to decrease ins
   - Ordered plasma and urine metanephrines and catecholamines to eval for
   pheo (plasma free normetanephrines positive earlierbut false positives
   can occur with withdrawal from clonidine)
   - ABG with improved oxygenation
   - Started coumadin
   - Started imdur
   - Ordered atrovent nebs for wheezes, decreased air movement
   - Ordered S/S consult
   - Finished abx this am.
   - Pulled NGT this am, replaced.
   S: No pain.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2173-4-18**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2173-4-18**] 06:00 PM
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2173-4-18**] 08:00 AM
   Furosemide (Lasix) - [**2173-4-18**] 09:38 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-4-19**] 05:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98
   HR: 63 (55 - 84) bpm
   BP: 151/60(84) {113/53(72) - 171/92(109)} mmHg
   RR: 17 (7 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.1 kg (admission): 86.1 kg
   Height: 65 Inch
             Total In:
                                                                  3,615 mL
                                                                    580 mL
   PO:
             TF:
                                                                    715 mL
                                                                    316 mL
   IVF:
                                                                  1,819 mL
                                                                    115 mL
   Blood products:
   Total out:
                                                                  2,097 mL
                                                                  1,050 mL
   Urine:
                                                                  2,097 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,518 mL
                                                                   -470 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.45/45/101/28/6
   PaO2 / FiO2: 253
   Physical Examination
   Gen: awake, talking, follows simple commands
   CV: RRR no m/r/g
   Resp: Occasional rhonchi
   Abd: Soft. Obese. NT ND. NABS.
   Ext: No edema b/l. WWP. 2+ radial and DP pulses.
   Neuro: Moves all ext (R>L), follows commands, EOMI.
   Labs / Radiology
   480 K/uL
   9.2 g/dL
   162 mg/dL
   2.7 mg/dL
   31 mEq/L
   3.1 mEq/L
   55 mg/dL
   100 mEq/L
   140 mEq/L
   26.5 %
   14.5 K/uL
        [image002.jpg]
                             [**2173-4-17**]  03:42 AM
                             [**2173-4-17**]  06:44 AM
                             [**2173-4-17**]  03:10 PM
                             [**2173-4-17**]  03:19 PM
                             [**2173-4-17**]  06:34 PM
                             [**2173-4-18**]  05:36 AM
                             [**2173-4-18**]  05:47 AM
                             [**2173-4-18**]  03:06 PM
                             [**2173-4-18**]  03:19 PM
                             [**2173-4-19**]  04:51 AM
   WBC
   13.2
   14.5
   Hct
   28.5
   26.5
   Plt
   458
   480
   Cr
   2.5
   2.5
   2.5
   TCO2
   34
   33
   36
   29
   32
   32
   Glucose
   149
   162
   163
   Other labs: PT / PTT / INR:17.9/90.9/1.6, CK / CKMB /
   Troponin-T:1063/25/5.28, ALT / AST:27/90, Alk Phos / T Bili:107/0.9,
   Differential-Neuts:89.4 %, Lymph:7.6 %, Mono:2.4 %, Eos:0.4 %, Lactic
   Acid:1.9 mmol/L, Albumin:2.9 g/dL, LDH:504 IU/L, Ca++:9.3 mg/dL,
   Mg++:2.8 mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
   62 yo male admitted with [**Year (4 digits) **] and in-stent thrombosis of his Cypher
   DES and acute CHF likely ischemic/diastolic now s/p evacuation of clot
   and POBA to distal RCA. Hospital course complicated by respiratory
   failure, altered mental status, pneumonia, and stroke now improved.
   Mental status change: Mental status continues to improve s/p
   extubation. Etiology of altered mental status is likely related to
   prolonged hospitalization, multiple sedating medications related to
   intubation, infection given VAP, fluid overload, B12 deficiency, and
   multiple small acute infarcts as seen on MRI.
   - continue to follow-up EEG
   - continue B12 repleteion
   - appreciate neuro recs
   - S+S consult
   Respiratory Failure
   Patient is s/p self-extubation on [**2173-4-17**] and has tolerated
   supplemental O2. Etiology likely related to fluid overload now much
   improved and pneumonia. S/p 8 day course of vancomycin and pip/tazo
   ([**2079-4-20**]).
   - continue prn lasix 200mg IV with metolazone 5mg to aim for goal I/Os
   to be even
   - continue aggressive suctioning and chest PT
   [**Name (NI) **] / In-Stent Thrombosis:
   It remains unclear what may have triggered this thrombosis 4 years
   after stent placement. He was managed by evacuation of clot and POBA to
   distal RCA.
   - Cont plavix , high dose aspirin, statin , labetalol, and lisinopril
   Strokes/atrial fibrillation
   - continue plavix
   - for anticoagulation, continue heparin gtt for now and transition to
   PO coumadin
   - for rate control, continue beta blocker
   Acute Systolic HF
   Echo showed new systolic dysfunction s/p IMI, now improved with EF
   50-55%.
   - aim for goal I/Os to be even with prn lasix 200mg IV with metolazone
   5mg
   - continue beta blocker and ACEI
   Hypertension:
   Remains hypertensive on regimen but improved since starting imdur.
   - Cont lisinopril 20 [**Hospital1 **], amlodipine, beta blocker, and imdur
   Leukocytosis
   Etiology is unclear. [**Name2 (NI) **] has now completed VAP treatment and no
   additional symptoms.
   - send blood and urine cultures
   Acute Kidney Injury
   Likely initially from ATN. Creatinine has been in the range of 2.4-2.7.
   - continue to avoid nephrotoxic agents
   Diabetes
   - Cont glargine and ISS
   Anemia
   Hct stable. Threshold for transfusion is under 21 given no evidence of
   end-organ ischemia.
   - continue to trend
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2173-4-19**] 03:49 AM 55 mL/hour
   - Speech and swallow consult
   Glycemic Control:  Insulin sliding scale
   Lines:
   Arterial Line - [**2173-4-10**] 08:32 AM
   20 Gauge - [**2173-4-16**] 05:00 AM
   PICC Line - [**2173-4-18**] 01:00 PM
   Prophylaxis:
   DVT: heparin drip and coumadin
   Stress ulcer: PPI
   VAP:  no longer intubated
   Comments:
   Communication:  Comments: [**Name (NI) 845**] [**Name (NI) 4563**] wife [**Telephone/Fax (3) 4565**]
   Code status: Full code
   Disposition: CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   as per ccu team
   Physical Examination
   as per ccu team
   Medical Decision Making
   critically ill due to [**Telephone/Fax (3) **], stent thrombosis, respiratory failure,
   stroke, altered mental status.
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   date of service [**2173-4-19**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 322**] [**Name (NI) **], MD
   on:[**2173-4-20**] 09:14 ------

2173-04-20 06:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Swallow eval: regular diet
   - Gave 200mg IV furosemide in pm for 900ml.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2173-4-18**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2173-4-19**] 05:51 AM
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2173-4-19**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-4-20**] 06:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.6
   HR: 65 (54 - 75) bpm
   BP: 157/67(93) {114/52(68) - 170/74(102)} mmHg
   RR: 15 (13 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.1 kg (admission): 86.1 kg
   Height: 65 Inch
             Total In:
                                                                  2,953 mL
                                                                    486 mL
   PO:
                                                                    170 mL
             TF:
                                                                  1,323 mL
                                                                    334 mL
   IVF:
                                                                    680 mL
                                                                    121 mL
   Blood products:
   Total out:
                                                                  2,065 mL
                                                                    465 mL
   Urine:
                                                                  2,065 mL
                                                                    465 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    888 mL
                                                                     21 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.43/43/76.[**Numeric Identifier 433**]/27/3
   Physical Examination
   Gen: awake, talking, follows simple commands
   CV: S1S2, RRR no m/r/g
   Resp: Occasional rhonchi anteriorly
   Abd: Soft. Obese. NT ND. NABS.
   Ext: No edema b/l. WWP. 2+ radial and DP pulses.
   Neuro: Moves all ext (R>L), follows commands, EOMI.
   Labs / Radiology
   440 K/uL
   8.9 g/dL
   154 mg/dL
   3.3 mg/dL
   27 mEq/L
   3.5 mEq/L
   72 mg/dL
   96 mEq/L
   138 mEq/L
   25.3 %
   15.8 K/uL
        [image002.jpg]
                             [**2173-4-17**]  03:19 PM
                             [**2173-4-17**]  06:34 PM
                             [**2173-4-18**]  05:36 AM
                             [**2173-4-18**]  05:47 AM
                             [**2173-4-18**]  03:06 PM
                             [**2173-4-18**]  03:19 PM
                             [**2173-4-19**]  04:51 AM
                             [**2173-4-19**]  02:31 PM
                             [**2173-4-20**]  04:00 AM
                             [**2173-4-20**]  04:08 AM
   WBC
   13.2
   14.5
   15.8
   Hct
   28.5
   26.5
   25.3
   Plt
   458
   480
   440
   Cr
   2.5
   2.5
   2.7
   3.3
   TCO2
   36
   29
   32
   32
   29
   29
   Glucose
   162
   163
   162
   154
   Other labs: PT / PTT / INR:16.7/92.5/1.5, CK / CKMB /
   Troponin-T:1063/25/5.28, ALT / AST:33/36, Alk Phos / T Bili:281/0.3,
   Differential-Neuts:82.7 %, Lymph:9.2 %, Mono:4.5 %, Eos:3.4 %, Lactic
   Acid:1.9 mmol/L, Albumin:3.3 g/dL, LDH:315 IU/L, Ca++:9.3 mg/dL,
   Mg++:2.3 mg/dL, PO4:6.4 mg/dL
   Assessment and Plan
   62 yo male admitted with STEMI and in-stent thrombosis of his Cypher
   DES and acute CHF likely ischemic/diastolic now s/p evacuation of clot
   and POBA to distal RCA. Hospital course complicated by respiratory
   failure, altered mental status, pneumonia, and stroke now improving.
   Hypertension: BP labile and high despite multimeds.
   Remains hypertensive on regimen but improved since starting imdur.
   -Cont lisinopril 20 [**Hospital1 **], amlodipine, labetolol, and imdur
   -can continue to uptitrate imdur as needed for improved control
   -will f/u urine metanephrines
   Acute Kidney Injury
   Likely initially from ATN but urine eos positive suggesting AIN.  He is
   now off antibiotics which were likely to be contributing to AIN. Also
   with worsening in setting of lasix diuresis pre-renal azotemia is
   positive. Creatinine has been in the range of 2.4-2.7. Up to 3.3 today.
   -exam urine casts
   -continue to avoid nephrotoxic agents
   - Renal consult tomorrow if creatinine continues to worsen.
   - hold ACE for now
   Leukocytosis
   Etiology is unclear. [**Name2 (NI) **] has now completed VAP treatment and no
   additional symptoms.
   - follow up blood and urine cultures
   Mental status change: Mental status continues to improve s/p
   extubation. Etiology of altered mental status is likely multifactorial
   related to prolonged hospitalization, multiple sedating medications
   related to intubation, infection given VAP, fluid overload, B12
   deficiency, and multiple small acute infarcts as seen on MRI.  Passed
   speech and swallow
   - continue to follow-up EEG
   - continue B12 repleteion
   - appreciate neuro recs
   Respiratory Failure
   Patient is s/p self-extubation on [**2173-4-17**] and has tolerated
   supplemental O2. Etiology likely related to fluid overload now much
   improved and pneumonia. S/p 8 day course of vancomycin and pip/tazo
   ([**2079-4-10**]).
   - continue as needed lasix 200mg IV with metolazone 5mg to aim for goal
   I/Os to be even
   - continue aggressive suctioning and chest PT
   -wean O2 as tolerated
   STEMI / In-Stent Thrombosis:
   It remains unclear what may have triggered this thrombosis 4 years
   after stent placement. He was managed by evacuation of clot and POBA to
   distal RCA.
   - Cont plavix , high dose aspirin, statin , labetalol, and lisinopril
   and imdur
   Strokes/atrial fibrillation
   - continue plavix
   - for anticoagulation, continue heparin gtt with bridge to PO coumadin,
   INR 1.5 today
   - for rate control, continue beta blocker
   Acute Systolic HF
   Echo showed new systolic dysfunction s/p IMI, now improved with EF
   50-55%.
   - aim for goal I/Os to be even with prn lasix 200mg IV with metolazone
   5mg
   - continue beta blocker and ACEI
   Diabetes
   - Cont to uptitrate glargine to improve control and less need for ISS
   - discontinuing tube feeds today
   Anemia
   Hct stable. Threshold for transfusion is under 21 given no evidence of
   end-organ ischemia.
   - continue to trend
   ICU Care
   Nutrition:
   Discontinue Replete with Fiber (Full) - [**2173-4-20**] 12:39 AM 55 mL/hour
   Now tolerating regular diet.
   Glycemic Control:  heparin sc
   Lines:
   Arterial Line - [**2173-4-10**] 08:32 AM
   PICC Line - [**2173-4-18**] 01:00 PM
   Prophylaxis:
   DVT: heparin bridge to coumadin
   Stress ulcer: not indicated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] would add the following remarks:
   History
   as per Dr. [**Last Name (STitle) **]
   Physical Examination
   as per Dr. [**Last Name (STitle) 1230**]
   Medical Decision Making
   Critically ill due to STEMI, acute systolic CHF, stroke, renal failure.
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   date of service 3/17/9
   ------ Protected Section Addendum Entered By:[**Name (NI) 322**] [**Name (NI) **], MD
   on:[**2173-4-21**] 17:10 ------

2173-04-21 06:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2173-4-20**] 11:30 PM
   UCx /urine lytes, FENA 2.2%
   -holding diureses in setting of worsening renal failure
   -improved BP control despite holding aceI for renal failure
   -NG tube d/ced and patient tolerated PO diet
   -increased lantus to 55U at night, went down to 50U
   -EEG mostly normal
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2173-4-18**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2173-4-19**] 05:51 AM
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-4-21**] 06:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.8
   HR: 70 (60 - 77) bpm
   BP: 159/62(90) {102/48(63) - 175/74(102)} mmHg
   RR: 22 (12 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.8 kg (admission): 86.1 kg
   Height: 65 Inch
             Total In:
                                                                  2,430 mL
                                                                    233 mL
   PO:
                                                                  1,050 mL
                                                                    120 mL
   TF:
                                                                    589 mL
   IVF:
                                                                    481 mL
                                                                    113 mL
   Blood products:
   Total out:
                                                                  1,435 mL
                                                                    287 mL
   Urine:
                                                                  1,435 mL
                                                                    287 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    995 mL
                                                                    -54 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   Gen: awake, talking, follows simple commands
   CV: S1S2, RRR no m/r/g
   Resp: Occasional rhonchi anteriorly. Otherwise clear.
   Abd: Soft. Obese. NT ND. NABS.
   Ext: No edema b/l. WWP. 2+ radial and DP pulses.
   Neuro: Moves all ext (R>L), follows commands, EOMI.
   Labs / Radiology
   415 K/uL
   8.5 g/dL
   60 mg/dL
   3.9 mg/dL
   28 mEq/L
   3.4 mEq/L
   88 mg/dL
   99 mEq/L
   138 mEq/L
   24.7 %
   13.4 K/uL
        [image002.jpg]
                             [**2173-4-18**]  05:36 AM
                             [**2173-4-18**]  05:47 AM
                             [**2173-4-18**]  03:06 PM
                             [**2173-4-18**]  03:19 PM
                             [**2173-4-19**]  04:51 AM
                             [**2173-4-19**]  02:31 PM
                             [**2173-4-20**]  04:00 AM
                             [**2173-4-20**]  04:08 AM
                             [**2173-4-20**]  04:14 PM
                             [**2173-4-21**]  04:00 AM
   WBC
   13.2
   14.5
   15.8
   13.4
   Hct
   28.5
   26.5
   25.3
   24.7
   Plt
   458
   480
   440
   415
   Cr
   2.5
   2.5
   2.7
   3.3
   3.6
   3.9
   TCO2
   32
   32
   29
   29
   Glucose
   162
   163
   162
   154
   134
   60
   Other labs: PT / PTT / INR:17.3/110.9/1.6, CK / CKMB /
   Troponin-T:1063/25/5.28, ALT / AST:33/36, Alk Phos / T Bili:281/0.3,
   Differential-Neuts:82.7 %, Lymph:9.2 %, Mono:4.5 %, Eos:3.4 %, Lactic
   Acid:1.9 mmol/L, Albumin:3.3 g/dL, LDH:315 IU/L, Ca++:9.0 mg/dL,
   Mg++:2.4 mg/dL, PO4:6.2 mg/dL
   Assessment and Plan
   62 yo male admitted with STEMI and in-stent thrombosis of his Cypher
   DES and acute CHF likely ischemic/diastolic now s/p evacuation of clot
   and POBA to distal RCA. Hospital course complicated by respiratory
   failure, altered mental status, pneumonia, and stroke now improving.
   Hypertension: BP labile and high despite multimeds.
   Remains hypertensive on regimen but improved since starting imdur.
   -Cont to hold  lisinopril 20 [**Hospital1 **],
   -continue amlodipine, labetolol, and imdur
   -can continue to uptitrate imdur as needed for improved control
   -will f/u urine metanephrines
   Acute Kidney Injury
   Likely initially from ATN but urine eos positive suggesting AIN.  He is
   now off antibiotics which were likely to be contributing to AIN. Also
   with worsening in setting of lasix diuresis pre-renal azotemia is
   positive. Creatinine has been in the range of 2.4-2.7. Up to 3.9 today.
   -exam urine casts
   -continue to avoid nephrotoxic agents
   - Renal consult
   - hold ACE for now and PO lasix
   -f/u renal ultrasound
   Leukocytosis Downtrending, etiology is unclear. [**Name2 (NI) **] has now completed
   VAP treatment and no additional symptoms.
   - follow up blood and urine cultures
   Mental status change: Mental status continues to improve s/p
   extubation. Etiology of altered mental status is likely multifactorial
   related to prolonged hospitalization, multiple sedating medications
   related to intubation, infection given VAP, fluid overload, B12
   deficiency, and multiple small acute infarcts as seen on MRI.  Passed
   speech and swallow-. Repeat EEG normal
   - continue B12 repleteion
   - appreciate neuro recs
   Respiratory Failure
   Patient is s/p self-extubation on [**2173-4-17**] and has tolerated
   supplemental O2. Etiology likely related to fluid overload now much
   improved and pneumonia. S/p 8 day course of vancomycin and pip/tazo
   ([**2079-4-10**]).
   - continue aggressive suctioning and chest PT
   -wean O2 as tolerated
   STEMI / In-Stent Thrombosis:
   It remains unclear what may have triggered this thrombosis 4 years
   after stent placement. He was managed by evacuation of clot and POBA to
   distal RCA.
   - Cont plavix , high dose aspirin, statin , labetalol, and lisinopril
   and imdur
   Strokes/atrial fibrillation-currently sinus and rate controlled
   - continue plavix
   - for anticoagulation, continue heparin gtt
   -d/c coumadin in case further procedures are needed
   - for rate control, continue labetolol
   Acute Systolic HF
   Echo showed new systolic dysfunction s/p IMI, now improved with EF
   50-55%.
   - aim for goal I/Os to be even
   -holding PO lasix
   - continue beta blocker but holding ACEI for renal failure
   Diabetes
   - Cont to uptitrate glargine, now on 50U to improve control and less
   need for ISS
   - eating diabetic diet
   Anemia
   Hct stable. Threshold for transfusion is under 21 given no evidence of
   end-organ ischemia.
   - continue to trend
   ICU Care
   Nutrition:
   PO diabetic diet
   Glycemic Control:  heparin gtt
   Lines:
   Arterial Line - [**2173-4-10**] 08:32 AM
   PICC Line - [**2173-4-18**] 01:00 PM
   Prophylaxis:
   DVT: heparin bridge to coumadin
   Stress ulcer: not indicated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Feels well.  NO dyspnea or chest pain.
   Physical Examination
   JVP 9-10
   Medical Decision Making
   1. Renal consultation (?atheroembolism)
   2. I/O -500 cc/24 hours
   3. Continue medical post-MI management
   4.  Continue CCU management for hemodynamic issues and because of
   worsening renal failure and volume overload
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3671**], MD
   on:[**2173-4-21**] 13:01 ------

2173-04-22 06:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2173-4-21**] 06:03 PM
   -Renal consulted:No note in chart yet but recommended encourage fluids
   and PO intake, no diuresis. Reviewed sediment which showed hyaline
   casts and [**4-7**] WBC per HPF. Recommended repeating urine eos, urine
   protein/cr ratio, check C3, c4, check FEurea (12.9%)
   -Renal US:  No hydronephrosis/obstruction. Filling defect posterior
   wall of the bladder. Urology consult/cystoscopy or MRI wthoutc ontrast
   for futher evaluation.
   -Called urology who recommended urine cytology and will see tomorrow.
   -Ordered hypercoag w/u (prothrombin gene, factor V leiden, anti beta 2
   glycoprotein, anticardiolipin)
   - BP much improved last 12 hours SBPs 110s
   S: No CP or SOB. Denies other complaints.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-4-22**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.2
   HR: 62 (61 - 74) bpm
   BP: 131/63(79) {108/53(70) - 134/68(83)} mmHg
   RR: 16 (11 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.8 kg (admission): 86.1 kg
   Height: 65 Inch
             Total In:
                                                                  1,674 mL
                                                                    182 mL
   PO:
                                                                  1,370 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    304 mL
                                                                     62 mL
   Blood products:
   Total out:
                                                                    837 mL
                                                                    365 mL
   Urine:
                                                                    837 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    837 mL
                                                                   -183 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ////
   Physical Examination
   Gen: A+O, NAD
   CV: S1S2, RRR no m/r/g
   Resp: RRR, crackles at bases
   Abd: Soft. Obese. NT ND. NABS.
   Ext: No edema b/l. WWP. 2+ radial and DP pulses.
   Neuro: A+Ox3, Moves all ext (R>L), follows commands.
   Labs / Radiology
   436 K/uL
   8.8 g/dL
   94 mg/dL
   3.9 mg/dL
   20 mEq/L
   4.0 mEq/L
   93 mg/dL
   101 mEq/L
   140 mEq/L
   25.2 %
   12.2 K/uL
        [image002.jpg]
                             [**2173-4-18**]  03:06 PM
                             [**2173-4-18**]  03:19 PM
                             [**2173-4-19**]  04:51 AM
                             [**2173-4-19**]  02:31 PM
                             [**2173-4-20**]  04:00 AM
                             [**2173-4-20**]  04:08 AM
                             [**2173-4-20**]  04:14 PM
                             [**2173-4-21**]  04:00 AM
                             [**2173-4-21**]  04:23 PM
                             [**2173-4-22**]  05:22 AM
   WBC
   14.5
   15.8
   13.4
   12.2
   Hct
   26.5
   25.3
   24.7
   25.2
   Plt
   [**Telephone/Fax (3) 4909**]36
   Cr
   2.5
   2.7
   3.3
   3.6
   3.9
   4.1
   TCO2
   32
   29
   29
   Glucose
   163
   162
   154
   134
   60
   Other labs: PT / PTT / INR:21.5/108.8/2.0, CK / CKMB /
   Troponin-T:1063/25/5.28, ALT / AST:33/36, Alk Phos / T Bili:281/0.3,
   Differential-Neuts:78.9 %, Lymph:13.0 %, Mono:3.5 %, Eos:3.9 %, Lactic
   Acid:1.9 mmol/L, Albumin:3.3 g/dL, LDH:315 IU/L, Ca++:9.0 mg/dL,
   Mg++:2.7 mg/dL, PO4:6.2 mg/dL
   Assessment and Plan
   62 yo male admitted with STEMI and in-stent thrombosis of his Cypher
   DES and acute CHF likely ischemic/diastolic now s/p evacuation of clot
   and POBA to distal RCA. Hospital course complicated by respiratory
   failure, altered mental status, pneumonia, and stroke now improving.
   Acute Kidney Injury
   Unclear cause: possible dry (Feurea 35) vs. AIN from Zosyn.
   - Creatinine peaked yesterday at 4.1, still making urine
   - keep even to slightly positive
   - hold ace
   - renally dose meds
   - appreciate renal following
   Bladder wall filling defect
   Noted on renal US and rads recommended urology consult.
   - Urology consult pending for further eval, possible cystoscopy
   (although may be difficult given anticoagulation).
   Hypertension: BP actually low today
   - stop imdur
   - continue labetalol
   - stopped ace
   - continue amlodipine for now
   - f/u metaneprhines to r/o pheo
   Leukocytosis Downtrending, etiology is unclear. [**Name2 (NI) **] has now completed
   VAP treatment and no additional symptoms.
   - follow up blood and urine cultures
   Mental status change: Appears to have resolved. Likely was from
   prolonged hospitalization, multiple sedating medications related to
   intubation, infection given VAP, fluid overload, B12 deficiency, and
   multiple small acute infarcts as seen on MRI.  Perhaps also from uremia
   given renal failure.
   - continue B12 repleteion
   - appreciate neuro recs
   Respiratory Failure
   Patient is s/p self-extubation on [**2173-4-17**] and has tolerated
   supplemental O2. Etiology likely related to fluid overload now much
   improved and pneumonia. S/p 8 day course of vancomycin and pip/tazo
   ([**2079-4-10**]).
   - continue aggressive suctioning and chest PT
   -wean O2 as tolerated
   STEMI / In-Stent Thrombosis:
   It remains unclear what may have triggered this thrombosis 4 years
   after stent placement. He was managed by evacuation of clot and POBA to
   distal RCA.
   - Cont plavix , high dose aspirin, statin , labetalol, and lisinopril
   and imdur
   Strokes/atrial fibrillation-currently sinus and rate controlled
   - continue plavix
   - for anticoagulation, continue heparin gtt
   -d/c coumadin in case further procedures are needed
   - for rate control, continue labetolol
   Acute Systolic HF
   Echo showed new systolic dysfunction s/p IMI, now improved with EF
   50-55%.
   -holding PO lasix
   - continue beta blocker but holding ACEI for renal failure
   Diabetes
   - Cont to uptitrate glargine, now on 50U to improve control and less
   need for ISS
   - eating diabetic diet
   Anemia
   Hct stable. Threshold for transfusion is under 21 given no evidence of
   end-organ ischemia.
   - continue to trend
   - give 1u RBC
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2173-4-18**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   - No complaints except pain at Foley site today
   - Renal U/S yesterday - kidneys normal in size, but has a ?bladder
   filling defect
   - slightly hypotensive and oliguric this morning
   - creatinine appears to have peaked at 4.1, now 3.9.  HCT 25%
   - urine eos persistently (+)
   Physical Examination
   JVP <7 at 30 deg
   syst murmur of MR
   no edema
   Medical Decision Making
   Imp:
   - CAD, s/p MI
   - pneumonia, resolved
   - renal failure
   - hypovolemia
   Plan:
   - 1 unit PRBC
   - liberalize PO intake
   - hold off warfarin for now in case procedures needed
   - urology consultation
   CCU care required because of hemodynamic instability, advanced renal
   failure
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3671**], MD
   on:[**2173-4-22**] 09:50 ------

2173-04-23 06:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Renal recs: Start sevelamer, hydrate. C3, C4 normal.
   - Urology: Irrigate q4h for clots (can increase to 22F foley if
   obstructing), re-US bladder once clear (clamp foley for 2hrs prior to
   procedure). Ucytology sent. F/u with [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 3410**] for cystoscopy.
   - Transfused 1 unit RBCs with hct 25 -> 28.
   - Imdur stopped for SBP down to 80s.
   - Repeat urine and serum metanephrines: mildly positive.
   - Hypercoagulable workup shouldn't be done inpatient per path
   (expensive, takes a long time)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 750 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-4-23**] 06:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 61 (54 - 73) bpm
   BP: 117/67(79) {90/44(56) - 147/72(91)} mmHg
   RR: 14 (9 - 18) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.8 kg (admission): 86.1 kg
   Height: 65 Inch
             Total In:
                                                                  1,257 mL
                                                                    166 mL
   PO:
                                                                    530 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    352 mL
                                                                     46 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,336 mL
                                                                    480 mL
   Urine:
                                                                  1,336 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -79 mL
                                                                   -314 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   Gen: A+O, NAD
   CV: S1S2, RRR no m/r/g
   Resp: RRR, crackles at bases
   Abd: Soft. Obese. NT ND. NABS.
   Ext: No edema b/l. WWP. 2+ radial and DP pulses.
   Neuro: A+Ox3, Moves all ext (R>L), follows commands.
   Labs / Radiology
   423 K/uL
   10.1 g/dL
   192
   3.5 mg/dL
   24 mEq/L
   4.0 mEq/L
   93 mg/dL
   96 mEq/L
   134 mEq/L
   28.0 %
   11.2 K/uL
        [image002.jpg]
                             [**2173-4-19**]  04:51 AM
                             [**2173-4-19**]  02:31 PM
                             [**2173-4-20**]  04:00 AM
                             [**2173-4-20**]  04:08 AM
                             [**2173-4-20**]  04:14 PM
                             [**2173-4-21**]  04:00 AM
                             [**2173-4-21**]  04:23 PM
                             [**2173-4-22**]  05:22 AM
                             [**2173-4-22**]  05:15 PM
                             [**2173-4-22**]  10:00 PM
   WBC
   14.5
   15.8
   13.4
   12.2
   11.2
   Hct
   26.5
   25.3
   24.7
   25.2
   28.0
   Plt
   [**Telephone/Fax (3) 4909**]36
   423
   Cr
   2.7
   3.3
   3.6
   3.9
   4.1
   3.9
   3.5
   TCO2
   29
   29
   Glucose
   162
   154
   134
   60
   94
   156
   192
   Other labs: PT / PTT / INR:21.5/60.1/2.0, CK / CKMB /
   Troponin-T:1063/25/5.28, ALT / AST:33/36, Alk Phos / T Bili:281/0.3,
   Differential-Neuts:78.9 %, Lymph:13.0 %, Mono:3.5 %, Eos:3.9 %, Lactic
   Acid:1.9 mmol/L, Albumin:3.3 g/dL, LDH:315 IU/L, Ca++:9.5 mg/dL,
   Mg++:2.5 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
   62 yo male admitted with STEMI and in-stent thrombosis of his Cypher
   DES and acute CHF likely ischemic/diastolic now s/p evacuation of clot
   and POBA to distal RCA. Hospital course complicated by respiratory
   failure, altered mental status, pneumonia, and stroke now improving.
   Acute Kidney Injury
   Unclear cause: possible dry (Feurea 35) vs. AIN from Zosyn.
   - Creatinine peaked yesterday at 4.1, still making urine
   - keep even to slightly positive
   - hold ace
   - renally dose meds
   - appreciate renal following
   Bladder wall filling defect
   Noted on renal US and rads recommended urology consult.
   - Urology consult pending for further eval, possible cystoscopy
   (although may be difficult given anticoagulation).
   Hypertension: BP actually low today
   - stop imdur
   - continue labetalol
   - stopped ace
   - continue amlodipine for now
   - f/u metaneprhines to r/o pheo
   Leukocytosis Downtrending, etiology is unclear. [**Name2 (NI) **] has now completed
   VAP treatment and no additional symptoms.
   - follow up blood and urine cultures
   Mental status change: Appears to have resolved. Likely was from
   prolonged hospitalization, multiple sedating medications related to
   intubation, infection given VAP, fluid overload, B12 deficiency, and
   multiple small acute infarcts as seen on MRI.  Perhaps also from uremia
   given renal failure.
   - continue B12 repleteion
   - appreciate neuro recs
   Respiratory Failure
   Patient is s/p self-extubation on [**2173-4-17**] and has tolerated
   supplemental O2. Etiology likely related to fluid overload now much
   improved and pneumonia. S/p 8 day course of vancomycin and pip/tazo
   ([**2079-4-10**]).
   - continue aggressive suctioning and chest PT
   -wean O2 as tolerated
   STEMI / In-Stent Thrombosis:
   It remains unclear what may have triggered this thrombosis 4 years
   after stent placement. He was managed by evacuation of clot and POBA to
   distal RCA.
   - Cont plavix , high dose aspirin, statin , labetalol, and lisinopril
   and imdur
   Strokes/atrial fibrillation-currently sinus and rate controlled
   - continue plavix
   - for anticoagulation, continue heparin gtt
   -d/c coumadin in case further procedures are needed
   - for rate control, continue labetolol
   Acute Systolic HF
   Echo showed new systolic dysfunction s/p IMI, now improved with EF
   50-55%.
   -holding PO lasix
   - continue beta blocker but holding ACEI for renal failure
   Diabetes
   - Cont to uptitrate glargine, now on 50U to improve control and less
   need for ISS
   - eating diabetic diet
   Anemia
   Hct stable. Threshold for transfusion is under 21 given no evidence of
   end-organ ischemia.
   - continue to trend
   - give 1u RBC
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2173-4-18**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: